US07442803B2
1.0 g (2.63 mmol) of 9-iodo-10-phenylanthracene, 542 mg (2.70 mmol) of p-bromophenylboronic acid, 46 mg (0.03 mmol) of tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4), 3 mL (6 mmol) of an aqueous potassium carbonate (K2CO3) solution (2 mol/L), and 10 mL of toluene were collected, mixed, and stirred for 9 hours at 80° C. After the reaction, toluene was added and the mixture was filtered through florisil, Celite®, and alumina. The filtrate was washed with water and a saturated aqueous sodium chloride solution and then dried with magnesium sulfate. After natural filtration, the filtrate was concentrated and the obtained solid was recrystallized with chloroform and hexane, thereby obtaining 562 mg of objective 9-phenyl-10-(4-bromophenyl)anthracene as a light-brown solid with a yield of 45%.

reactant | 9-iodo-10-phenylanthracene | 2.63 mmol, 1.0 g | IC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13I
reactant | p-bromophenylboronic acid | 2.70 mmol, 542 mg | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | potassium carbonate | 6 mmol, 2 mol/L, 3 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 9-phenyl-10-(4-bromophenyl)anthracene | 562 mg, yield of 45% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)Br | C26H17Br
